US07087626B2
1-Chloromethyl-4-fluoronaphthalene
A solution of 1-fluoronaphthalene (5.5 g, 37.6 mmol), paraformaldehyde (2.5 g, 83 mmol), glacial acetic acid (3.5 mL), phosphoric acid (2 mL) and concentrated hydrochloric acid (5 mL) is heated at 85° C. for 15 h. The reaction mixture is poured into water and extracted three times with dichloromethane. The organic extracts are combined and washed with water and brine, dried (sodium sulfate), filtered, and evaporated to yield the title compound, 6.53 g (98%, as a yellow solid.

reactant | 1-fluoronaphthalene | 37.6 mmol, 5.5 g | FC1=CC=CC2=CC=CC=C12 | C10H7F
reactant | paraformaldehyde | 83 mmol, 2.5 g | C=O | CH2O
reactant | phosphoric acid | 2 mL | P(O)(O)(O)=O | H3O4P
reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-Chloromethyl-4-fluoronaphthalene | ClCC1=CC=C(C2=CC=CC=C12)F | C11H8ClF
